US09260408B2
[C] 6-{5-[(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one
In analogy to the procedure described for the preparation of intermediate A-3 [C], 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) has been coupled to 3-bromo-5-[(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridine to give the title compound as a white solid. MS: 452.1 (M+H+).

reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | 3-bromo-5-[(R)-2-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridine | BrC=1C=NC=C(C1)N1[C@H](CCC1)C(O[SiH2]C(C)(C)C)(C)C | C16H27BrN2OSi
product | 6-{5-[(R)-2-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrrolidin-1-yl]-pyridin-3-yl}-1-methyl-3,4-dihydro-1H-quinolin-2-one | C(C)(C)(C)[SiH2]OC([C@@H]1N(CCC1)C=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O)(C)C | C26H37N3O2Si
